US04414225
5-Ethoxycarbonyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepine-2-carboxylic acid
10 gm (0.034 mol) of an isomer mixture consisting of diethyl 5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2,6-dicarboxylate and diethyl 5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepine-2,5-dicarboxylate were refluxed for 4 hours in a solution of 2.8 gm (0.05 mol) of potassium hydroxide in 150 ml of absolute ethyl alcohol. Then, the mixture was concentrated by evaporation in vacuo, the residue was taken up in water and extracted three times with ether. The ether extracts were discarded, and the aqueous phase was acidified with concentrated hydrochloric acid. It was extracted several times with ether, and the combined ether phases were washed with water and dried over sodium sulfate. After the ether had been distilled off, 9.2 gm of a yellowish oil remained.

reactant | diethyl 5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2,6-dicarboxylate | S1C(=CC2=C1CCN(CC2)C(=O)OCC)C(=O)OCC | C14H19NO4S
reactant | diethyl 5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepine-2,5-dicarboxylate | S1C(=CC=2CN(CCCC21)C(=O)OCC)C(=O)OCC | C14H19NO4S
reactant | potassium hydroxide | 0.05 mol, 2.8 gm | [OH-].[K+]
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
product | 5-Ethoxycarbonyl-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepine-2-carboxylic acid | C(C)OC(=O)N1CC2=C(CCC1)SC(=C2)C(=O)O | C12H15NO4S
